US05877202
Ethyl [1-benzyl-indol-3-yl]-acetate
Combine sodium hydride (1.08 g, 60% in oil, 27.1 mmol) and dimethylformamide (50 mL). Add a solution of ethyl indol-3-yl-acetic acid (5 g, 24.6 mmol) in dimethylformamide (20 mL). Stir until gas evolution ceases. Add benzyl bromide (5.85 mL, 49.2 mmol). Warm to ambient temperature. After 48 hours, partition the reaction mixture between ethyl acetate and water. Separate the organic layer and extract with a saturated sodium chloride solution. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 10% ethyl acetate/hexane to give the title compound.

reactant | sodium hydride | 27.1 mmol, 1.08 g | [H-].[Na+]
reactant | ethyl indol-3-yl-acetic acid | 24.6 mmol, 5 g | C(C)C(C(=O)O)C1=CNC2=CC=CC=C12 | C12H13NO2
reactant | benzyl bromide | 49.2 mmol, 5.85 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | Ethyl [1-benzyl-indol-3-yl]-acetate | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)CC(=O)OCC | C19H19NO2
